US06927228B2
(c) tert-Butyl (4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]methylcarbamate
30 g (71 mmol) of tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate in 500 ml of dioxane are placed in a reactor. The reaction medium is degassed, followed by addition of g (1 equivalent by mass) of 10% palladium-on-charcoal. The system is placed under 3 bar of hydrogen and heated at 50° C. for seven hours. The reaction medium is filtered through Celite and evaporated, and the residue obtained is purified by chromatography on a column of silica with an fluent mixture of dichloromethane and methanol (98/2). After evaporation of the solvents, 18 g (60%) of the expected product are collected.

reactant | tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]methylcarbamate | 71 mmol, 30 g | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C | C23H24N2O4S
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | tert-Butyl (4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]methylcarbamate | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(OC(C)(C)C)=O)C | C23H26N2O4S
